US07935854B2
25.4 g (100 mmol) of 9-bromoanthracene, 12.8 g (105 mmol) of phenylboronic acid, 0.233 g (1.00 mmol) of palladium (II) acetate, and 0.913 g (3.00 mmol) of tri(ortho-tolyl)phosphine were put into a 500 mL three-necked flask. Then, the atmosphere in the flask was substituted with nitrogen. Thereafter, 100 mL of ethylene glycol dimethyl ether (abbreviation: DME) and 75 mL (150 mmol) of potassium carbonate solution (2.0 mol/L) were added to the mixture, and this mixture was refluxed at 90° C. for 6 hours to be reacted. After the reaction, a precipitate in the reaction mixture was collected by suction filtration. The obtained solid was recrystallized by a mixed solvent of chloroform and hexane; then 20.8 g of objective 9-phenylanthracene was obtained as a white powdered solid in a yield of 82%. A synthetic scheme of 9-phenylanthracene is illustrated below (synthetic scheme b-1).

reactant | 9-bromoanthracene | 100 mmol, 25.4 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | phenylboronic acid | 105 mmol, 12.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 150 mmol, 2.0 mol/L, 75 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium (II) acetate | 1.00 mmol, 0.233 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri(ortho-tolyl)phosphine | 3.00 mmol, 0.913 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
product | 9-phenylanthracene | 20.8 g, yield of 82% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
